* source AC-NON-INVERTING
R_R2         N01098 N01108 100k
E_U1         N01108 0 VALUE {LIMIT(V(N01216,N01098)*1E6,-15V,+15V)}
R_R1         0 N01098 10k
V_V2         N01216 0  AC <0>
+SIN <0> <0.1> <1000> 0 0 0
