* source FULLWAVE
R_R1         0 N00232 4.7k
D_D1         0 N00260 D1N4148 
D_D2         N00260 N00232 D1N4148 
D_D3         0 N00244 D1N4148 
D_D4         N00244 N00232 D1N4148 
V_V1         N00260 N00244  AC {0}
+SIN {0} {10} {1000} 0 0 0
