* source HALFWAVERECTIIER
V_V1         N00467 0  AC {0}
+SIN {0} {10} {1000} 0 0 0
D_D1         N00467 N00474 D1N4148 
R_R1         0 N00474 10k
