* source INVERTINGAMPLIFIER
E_U1         N00282 0 VALUE {LIMIT(V(0,N00188)*1E6,-15V,+15V)}
R_R1         N00183 N00188 3k
V_V1         N00183 0 3Vdc
R_R2         N00188 N00282 24k
