* source NONINVERTINGAMPLIFIER
E_U1         N00821 0 VALUE {LIMIT(V(0,N00811)*1E6,-15V,+15V)}
R_R1         N00875 N00811 10k
R_R2         N00811 N00821 100k
V_V2         N00875 0  AC <0>
+SIN <0> <0.1> <1000> 0 0 0
