* source WEIGHTEDSUMMER
E_U1         N00182 0 VALUE {LIMIT(V(0,N00234)*1E6,-15V,+15V)}
R_R1         N00234 N00182 12k
V_V1         N00193 0 3Vdc
V_V2         N00201 0 1Vdc
R_R2         N00193 N00234 3k
R_R3         N00201 N00234 3k
